US07915250B2
[1-({4-[(2-Fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)-3-hydroxyazetidin-3-yl]methyl 2,4,6-tris(1-methylethyl)benzenesulfonate (101 mg, 0.141 mmol) was dissolved in tetrahydrofuran (2 mL) and was treated with sodium hydride (60 wt % dispersion in oil; 17 mg, 0.425 mmol) at ambient for 20 minutes. Tetrahydrofuran (2 mL) and tert-butylamine (0.1 mL) were added and the mixture was stirred at ambient for 16 h. The mixture was concentrated in vacuo and partitioned between ethyl acetate and water. The organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by reverse phase HPLC and the clean fractions were combined, neutralized with saturated sodium bicarbonate solution and the organic solvent was removed in vacuo. The remaining aqueous residue was extracted twice with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford 3-{[(1,1-dimethylethyl)amino]methyl}-1-({4-[(2-fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)azetidin-3-ol (8 mg, 0.016 mmol, 11% yield): 1H NMR (400 MHz, d6-DMSO): 9.64 (br, 1H), 8.08 (d, 1H), 7.59 (dd, 1H), 7.44 (dd, 1H), 7.36 (t, 1H), 7.12 (d, 1H), 4.39 (d, 1H), 4.22 (d, 1H), 4.03 (d, 1H), 3.80 (d, 1H), 2.68 (br, 2H) 1.04 (s, 9H); MS (EI) for C19H23FIN3O2S: 504 (MH+).

reactant | [1-({4-[(2-Fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)-3-hydroxyazetidin-3-yl]methyl 2,4,6-tris(1-methylethyl)benzenesulfonate | 0.141 mmol, 101 mg | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)OCC1(CN(C1)C(=O)C1=CSC=C1NC1=C(C=C(C=C1)I)F)O | C30H36FIN2O5S2
reactant | sodium hydride | 0.425 mmol, 17 mg | [H-].[Na+]
reactant | tert-butylamine | 0.1 mL | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-{[(1,1-dimethylethyl)amino]methyl}-1-({4-[(2-fluoro-4-iodophenyl)amino]-3-thienyl}carbonyl)azetidin-3-ol | 0.016 mmol, 8 mg, 11% yield | CC(C)(C)NCC1(CN(C1)C(=O)C1=CSC=C1NC1=C(C=C(C=C1)I)F)O | C19H23FIN3O2S
